US07405209B2
d.) .3,3-Dimethyl-1-(pyridine-2-sulfonyl)-2,3,4,7-tetrahydro-1H-azepine
Pyridine-2-sulfonic acid allyl-(2,2-dimethyl-pent-4-enyl)-amide (0.6 g, 2 mmol) was diluted in CH2Cl2 (50 ml) After carefully degass by Ar, Grubbs catalyst (0.17 g, 0.2 mmol) was added under Ar protection. The mixture was then refluxed for 2 h before the solvent was removed on rotavapor. The crude product was purified by column chromatography (5%-20% E/H) to give 0.47 g of the title compound in 87% yield. MS (M+H+): 267.0; 1H-NMR (400 MHz, CDCl3): •8.70-8.69(d, 1H), 7.96-7.88(m, 2H), 7.49-7.46(m, 1H), 5.81-5.70(m, 2H), 3.93-3.92(d, 2H), 3.26(s, 2H), 2.13-2.12(d, 2H), 1.00(s, 6H)

reactant | Pyridine-2-sulfonic acid allyl-(2,2-dimethyl-pent-4-enyl)-amide | 2 mmol, 0.6 g | C(C=C)N(S(=O)(=O)C1=NC=CC=C1)CC(CC=C)(C)C | C15H22N2O2S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | Grubbs catalyst | 0.2 mmol, 0.17 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | 3,3-Dimethyl-1-(pyridine-2-sulfonyl)-2,3,4,7-tetrahydro-1H-azepine | 0.47 g, 87% yield | CC1(CN(CC=CC1)S(=O)(=O)C1=NC=CC=C1)C | C13H18N2O2S
